US06837908B2
1. Synthesis of 1-(6-methoxy-5-nitropyridin-2-yl)pyrrolidin-3-ol
2 g (0.0106 mol) of 6-chloro-2-methoxy-3-nitropyridine, 25 ml of ethanol and 1.9 g of 3-pyrrolidinol are charged to a fully equipped round-bottomed flask. The mixture is brought to 50° C. for one hour with stirring and the mixture is poured onto an ice/water mixture with stirring. The precipitate formed is filtered off and dried. 2 g of yellow powder are obtained.

reactant | 6-chloro-2-methoxy-3-nitropyridine | 0.0106 mol, 2 g | ClC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5ClN2O3
reactant | 3-pyrrolidinol | 1.9 g | N1CC(CC1)O | C4H9NO
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-(6-methoxy-5-nitropyridin-2-yl)pyrrolidin-3-ol | 2 g | COC1=C(C=CC(=N1)N1CC(CC1)O)[N+](=O)[O-] | C10H13N3O4
